US04929630
N-tert-butoxycarbonyl-5-aminomethyl-3-methoxy-4,5-dihydroisoxazole
In the same manner, N-tert-butoxycarbonyl-5-aminomethyl-3-ethylthiyl-4,5-dihydroisoxazole was made by using sodium ethyl thiolate in dry DMF instead of sodium methoxide in methanol.

reactant | N-tert-butoxycarbonyl-5-aminomethyl-3-ethylthiyl-4,5-dihydroisoxazole | C(C)(C)(C)OC(=O)N1OC(C(C1CC)S)CN | C11H22N2O3S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | N-tert-butoxycarbonyl-5-aminomethyl-3-methoxy-4,5-dihydroisoxazole | C(C)(C)(C)OC(=O)N1OC(CC1OC)CN | C10H20N2O4
